US07119207B2
6-Ethoxy-1-methyl-3,4-dihydro-1H-quinolin-2-one
1.0M potassium t-butoxide/THF (5.65 ml, 5.65 mmol) was added to 6-Hydroxy-1-methyl-3,4-dihydro-1H-quinolin-2-one (200 mg, 1.13 mmol) followed by the addition of ethyl iodide (452 μl, 5.65 mmol). The reaction mixture was stirred at room temperature for 2 hours and heated to 45° C. for an overnight. The salts were filtered off, rinsed with ethyl acetate and the combined filtrate was concentrated down to a residue. This was chromatographed using 1:1 ethylacetate/hexane to yield the title compound as a white solid (76 mg, 33% yield). 1H NMR (400 MHz, CDCl3) δ 1.36 (3H, t, J=6.9 Hz), 2.58 (2H, m), 2.82 (2H, m), 3.29 (3H, s), 3.96 (2H, q, J=7.0 Hz), 6.71 (2H, m), 6.84 (1H, d, J=8.7 Hz). m/z (APCI+) 206 (M+1). HPLC (aqueous 200 Mm ammonium acetate buffer/acetonitrile gradient, 3.0 ml/min, Hewlett Packard ODS Hypersil 5 μM, 125×4 mm column), 4.453 min.

reactant | potassium t-butoxide THF | 5.65 mmol, 1.0M, 5.65 ml | CC(C)([O-])C.[K+].C1CCOC1
reactant | 6-Hydroxy-1-methyl-3,4-dihydro-1H-quinolin-2-one | 1.13 mmol, 200 mg | OC=1C=C2CCC(N(C2=CC1)C)=O | C10H11NO2
reactant | ethyl iodide | 5.65 mmol, 452 μl | C(C)I | C2H5I
product | 6-Ethoxy-1-methyl-3,4-dihydro-1H-quinolin-2-one | 76 mg, 33% yield | C(C)OC=1C=C2CCC(N(C2=CC1)C)=O | C12H15NO2
